US08304446B2
2-({[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]amino}carbonyl)benzoic acid
To a solution of N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 4) (0.046 g, 0.1 mmol) in THF (0.5 ml) was added N,N-diisopropylethylamine (0.035 ml, 0.2 mmol), followed by phthalic anhydride (0.014 g, 0.1 mmol). The solution was stirred for 18 hours at room temperature, concentrated in a blow-down unit and the residue was dissolved in DMSO (0.5 ml) and purified by mass directed auto-preparative HPLC (Method E) to give the title compound (35 mg, 51%).

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl | C20H19ClN4O3S2
reactant | N,N-diisopropylethylamine | 0.2 mmol, 0.035 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phthalic anhydride | 0.1 mmol, 0.014 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 2-({[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]amino}carbonyl)benzoic acid | 35 mg, 51% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C=CC1)CNC(=O)C1=C(C(=O)O)C=CC=C1 | C28H23ClN4O6S2
